US04405530
G. Methyl 2-fluoromethyl-2-phthalimido-4-oxo-5-diazopentanoate
A solution of methyl 2-fluoromethyl-2-phthalimido-3-chlorocarbonyl-propionate (2.07 g, 6.33 mmol) in dry ether (24 ml) is slowly added with stirring to a cooled (ice) solution of diazomethane in ether (0.392 mol, 50 ml). After 30 minutes, the solvent is evaporated to give a yellow oil (2.1 g). This is purified by flash chromatography on silica gel (200 g, ethyl acetate/petroleum ether 4:6) to give the pure title compound as a yellow oil (1.7 g);

reactant | methyl 2-fluoromethyl-2-phthalimido-3-chlorocarbonyl-propionate | 6.33 mmol, 2.07 g | FCC(C(=O)OC)(CC(=O)Cl)N1C(C=2C(C1=O)=CC=CC2)=O | C14H11ClFNO5
reactant | diazomethane | [N+](=[N-])=C | CH2N2
solvent | ether | 24 ml | CCOCC | C4H10O
solvent | ether | 0.392 mol, 50 ml | CCOCC | C4H10O
product | Methyl 2-fluoromethyl-2-phthalimido-4-oxo-5-diazopentanoate | 2.1 g | FCC(C(=O)OC)(CC(C=[N+]=[N-])=O)N1C(C=2C(C1=O)=CC=CC2)=O | C15H12FN3O5
